US05173484
b) 3-Hydroxy-3-methylaminomethylpiperidine
8.7 g (43 mmol) of methyl 3-hydroxy-3-methylaminomethylpiperidine-1carboxylate are heated overnight under reflux with 24 g of Ba(OH)2. 8H2O in 240 ml of water. The product is filtered off from BaCO3 with suction and concentrated. The residue is boiled five times using 100 ml of dioxane each time, and the dioxane solution is concentrated and distilled.

reactant | methyl 3-hydroxy-3-methylaminomethylpiperidine-1carboxylate | 43 mmol, 8.7 g | OC1(CN(CCC1)C(=O)OC)CNC | C9H18N2O3
solvent | water | 240 ml | O | H2O
product | 3-Hydroxy-3-methylaminomethylpiperidine | OC1(CNCCC1)CNC | C7H16N2O
